US09340546B2
tert-butyl 5-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate was dissolved in MeOH (8 mL). Acetic acid (91.88 mg, 87.01 μL, 1.530 mmol), formaldehyde (37% solution in water, 99.33 mg, 91.13 μL, 1.224 mmol) and NaBH(OAc)3 (324.3 mg, 1.530 mmol) was sequentially added and the mixture was stirred for 1 hour at RT. The reaction mixture was partitioned between an aqueous saturated solution of NaHCO3 and DCM. The insoluble was filtered off and the combined organic extract was dried and concentrated in vacuo. The insoluble and the residue were combined and purified by fractionlynx to yield 2-amino-6-fluoro-N-(7-methyl-5,6,7,8-tetrahydro-2,7-naphthyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide. MS (ES+) 342.2.

reactant | tert-butyl 5-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C2CCN(CC2=CN=C1)C(=O)OC(C)(C)C | C20H22FN7O3
reactant | Acetic acid | 1.530 mmol, 87.01 μL, 91.88 mg | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 1.224 mmol, 91.13 μL, 99.33 mg | C=O | CH2O
reactant | NaBH(OAc)3 | 1.530 mmol, 324.3 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | 2-amino-6-fluoro-N-(7-methyl-5,6,7,8-tetrahydro-2,7-naphthyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=CN=CC=2CN(CCC12)C | C16H16FN7O
